US08802864B2
c) 5-{[1-(cyclopropylcarbonyl)-3-azetidinyl]methyl}-4-[2-fluoro-4-(1H-indol-6-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
In a microwave vial purged with nitrogen, a mixture of 4-(4-bromo-2-fluorophenyl)-5-{[1-(cyclopropylcarbonyl)-3-azetidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (64 mg, 0.162 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (15 mg, 0.018 mmol), and 1H-indol-6-ylboronic acid (30 mg, 0.186 mmol) in 1,4-dioxane (1.5 mL) and 2M aq potassium carbonate (0.5 mL, 1.000 mmol) were stirred at 100° C. in an oil bath for 16 h. The reaction was cooled to room temperature, diluted with ethyl acetate (10 mL), and then the layers were separated. The aqueous layer was neutralized using 1N aq HCl and then extracted with ethyl acetate (2×20 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-5% methanol/ethyl acetate) provided the title compound as an impure solid. Subsequent purification of this solid by reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) followed by dessication in a vacuum oven over the weekend provided the title compound as a white solid (16 mg, 23%). MS(ES)+ m/z 432.2 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-5-{[1-(cyclopropylcarbonyl)-3-azetidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.162 mmol, 64 mg | BrC1=CC(=C(C=C1)N1C(NN=C1CC1CN(C1)C(=O)C1CC1)=O)F | C16H16BrFN4O2
reactant | 1H-indol-6-ylboronic acid | 0.186 mmol, 30 mg | N1C=CC2=CC=C(C=C12)B(O)O | C8H8BNO2
reactant | potassium carbonate | 1.000 mmol, 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-{[1-(cyclopropylcarbonyl)-3-azetidinyl]methyl}-4-[2-fluoro-4-(1H-indol-6-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | C1(CC1)C(=O)N1CC(C1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C2C=CNC2=C1)F | C24H22FN5O2
